US05304555
N-methyl-2-(4-benzylpiperazino)-4,5-pyrimidinedicarboxylic acid imide (compound No. 300)
Potassium hydroxide (8.4 g; 150 mmoles), 50 ml of ethanol and 10 ml of water were added to 19.9 g (50 mmoles) of diethyl 2-(4-benzylpiperazino)-4,5-pyrimidinedicarboxylate, and the mixture was stirred for 1 hour at room temperature and then for 2 hours at 40 ° C. Hydrochloric acid was added to the solution to adjust its pH to 3. The resulting crystals were separated by filtration, and washed with ethyl acetate. The crystals (18.1 g) were dissolved in 527 ml of methylene chloride, and 21.3 g (211 mmoles) of triethylamine and 12.5 g (105 mmoles) of thionyl chloride were added. The mixture was stirred at room temperature for 1 hour, and then cooled to -78 ° C. 8.17 g (105 mmoles) of a 40% methanol solution of methylamine was added, and the temperature was raised to room temperature. The mixture was stirred at this temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the resulting solid was washed with water. To 14.4 g of the solid were added 3.32 g (40.4 mmoles) of sodium acetate and 41.3 g (404 mmoles) of acetic anhydride were added. The mixture was heated under reflux for 2 hours. The reaction mixture was concentrated under reduced pressure, and after adding water, the mixture was stirred for 30 minutes. The resulting solid was purified by silica gel column chromatography to give 9.72 g (yield 56%) of the desired compound.

reactant | Potassium hydroxide | 150 mmoles, 8.4 g | [OH-].[K+]
reactant | diethyl 2-(4-benzylpiperazino)-4,5-pyrimidinedicarboxylate | 50 mmoles, 19.9 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)C(=O)OCC)C(=O)OCC | C21H26N4O4
reactant | Hydrochloric acid | Cl | ClH
reactant | triethylamine | 211 mmoles, 21.3 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 105 mmoles, 12.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | methylamine | CN | CH5N
reactant | sodium acetate | 40.4 mmoles, 3.32 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 404 mmoles, 41.3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-methyl-2-(4-benzylpiperazino)-4,5-pyrimidinedicarboxylic acid imide | 9.72 g, yield 56% | CN1C(N=C(C(=C1)C(=O)O)C(O)=N)N1CCN(CC1)CC1=CC=CC=C1 | C18H23N5O3
